US06887877B2
To a degassed solution of 2-[(4-Iodo-benzyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-3-phenyl-propionic acid methyl ester (40 mg, 0.068 mmol) and benzofuran-2-boronic acid (20 mg, 0.124 mmol) in a mixture of DME (3 mL) and 2M aqueous Na2CO3 (1.5 mL), Pd(PPh3)4 (4 mg) was added and the reaction mixture was stirred at 65° C. for 2 h under a N2 atmosphere. The reaction mixture was diluted with ethyl acetate and water. The organic layer was separated, dried (Na2SO4), concentrated. The residue was purified by column chromatography using ethyl acetate and hexane (1:9) to obtain 2-[(4-Benzofuran-2-yl-benzyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-3-phenyl-propionic acid methyl ester (39 mg, 100%) as a thick syrup. 1H NMR (af-2783) (CDCl3, 400 MHz): δ7.2 (d, 2H), 7.62 (d, 1H), 7.55 (d, 1H), 7.30-7.15 (m, 7H), 7.12 (d, 2H), 6.96 (s, 1H), 6.51 (s, 1H), 4.72 (m, 3H), 3.80, 3.40 (2s, 6H), 3.28 (dd, 1H), 3.02 (dd, 1H), 2.71, 2.58, 2.12 (3s, 9H).

reactant | 2-[(4-Iodo-benzyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-3-phenyl-propionic acid methyl ester | 0.068 mmol, 40 mg | COC(C(CC1=CC=CC=C1)N(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)CC1=CC=C(C=C1)I)=O | C27H30INO5S
reactant | benzofuran-2-boronic acid | 0.124 mmol, 20 mg | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
solvent | DME | 3 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 2M, 1.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[(4-Benzofuran-2-yl-benzyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-3-phenyl-propionic acid methyl ester | 39 mg, 100% | COC(C(CC1=CC=CC=C1)N(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)C(C1=CC=CC=C1)C1=CC=C2C(=CC=C2)O1)=O | C35H35NO6S
